US07378418B2
Preparation of 3,4-Bis(4-chlorophenyl)-6-(2-hydroxy-3-isobutoxypropyl)imidazo[1,5-b]pyridazin-7(6H)-one
To a solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (20 mg, 0.056 mmol), prepared as described in Example 1, in 0.6 mL of DMF was added glycidyl isobutyl ether (7.3 mg, 0.056 mmol), followed by K2CO3 (15.5 mg, 0.112 mmol). The mixture was heated at 85° C. After stirring overnight, the reaction was allowed to cool to RT The reaction mixture was filtered to remove excess of K2CO3. The collected solution was concentrated under reduced pressure. The crude product was purified using reverse phase HPLC to give the title compound, 3,4-bis(4-chlorophenyl)-6-(2-hydroxy-3-isobutoxypropyl)imidazo[1,5-b]pyridazin-7(6H)-one (17.8 mg, 65% yield) as a yellow solid. in 65% yield. MS [M+H]+: found 487; 1H NMR (CDCl3, 400 MHz) δ 8.08 (s, 1H), 7.23-7.15 (m, 6H), 7.00-6.96 (m, 2H), 4.20-4.00 (m, 3H), 3.41 (d, 2H), 3.11 (d, 2H), 1.80-1.65 (m, 1H), 0.76 (d, 6H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.056 mmol, 20 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | glycidyl isobutyl ether | 0.056 mmol, 7.3 mg | C(C(C)C)OCC1CO1 | C7H14O2
reactant | K2CO3 | 0.112 mmol, 15.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 3,4-bis(4-chlorophenyl)-6-(2-hydroxy-3-isobutoxypropyl)imidazo[1,5-b]pyridazin-7(6H)-one | 17.8 mg, 65% yield | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(C2)CC(COCC(C)C)O)=O)C2=CC=C(C=C2)Cl | C25H25Cl2N3O3
